US07795315B2
(E)-{4-[2-(2-tert-Butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-[tert-butoxycarbonyl-(2-morpholin-4-yl-propyl)-amino]-acetic acid
To a solution of (E)-{4-[2-(2-tert-butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-methanesulfonyloxy-acetic acid methyl ester (11.40 g, 22.6 mmol) and K2CO3 (9.37 g, 67.8 mmol) in CH3CN (250 mL) was added 2-morpholin-4-yl-propylamine (4.08 g, 22.6 mmol) under N2 atmosphere. This mixture was heated to 40 degrees Celcius overnight, cooled to room temperature, and then LiOH solution (1N, 45 mL) was added directly to the mixture. After stirring for about 5 h at room temperature, di-tert-butyl-dicarbonate (13.5 g, 61.9 mmol) was added to the mixture in one portion and stirred overnight. The reaction system was extracted with ethyl acetate (100 mL×4). The combined organic layer was washed with diluted aqueous Na2CO3 solution (pH˜9). The combined aqueous layer was washed with ethyl acetate (50 mL×3) and then acidified with 2 N HCl to pH 6-7. The acidified aqueous layer was extracted with ethyl acetate (100 mL×3). The combined organic layer was washed with brine (50 mL×2), dried with MgSO4, filtered, and evaporated to obtain a yellow solid which was further washed with Et2O (150 mL) to obtain 10.8 g (75%) of yellow solid product. MS: calc'd 639 (MH+), exp 639 (MH+). 1H NMR (d6-DMSO, 400 MHz) δ 9.77 (s, 1H), 8.53 (s, 1H), 7.60 (m, 4H), 7.59 (d, 1H, J=15.6 Hz), 7.48 (m, 2H), 7.14 (m, 2H), 6.94 (d, 1H, J=15.6 Hz), 5.27 (s, 1H), 3.8-3.5 (m, 4H), 2.8 (m, 1H), 2.6-2.2 (m, 6H), 1.5 (broad s, 9H), 1.3 (broad s, 9H), 0.85 (d, 3H, J=6.8 Hz).

reactant | (E)-{4-[2-(2-tert-butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-methanesulfonyloxy-acetic acid methyl ester | 22.6 mmol, 11.40 g | COC(C(OS(=O)(=O)C)C1=CC=C(C=C1)\C=C\C(NC1=C(C=CC=C1)NC(=O)OC(C)(C)C)=O)=O | C24H28N2O8S
reactant | K2CO3 | 67.8 mmol, 9.37 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-morpholin-4-yl-propylamine | 22.6 mmol, 4.08 g | N1(CCOCC1)C(CN)C | C7H16N2O
reactant | LiOH | 1N, 45 mL | [Li+].[OH-]
reactant | di-tert-butyl-dicarbonate | 61.9 mmol, 13.5 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH3CN | 250 mL | CC#N | C2H3N
product | (E)-{4-[2-(2-tert-Butoxycarbonylamino-phenylcarbamoyl)-vinyl]-phenyl}-[tert-butoxycarbonyl-(2-morpholin-4-yl-propyl)-amino]-acetic acid | 10.8 g, 75% | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)NC(=O)/C=C/C1=CC=C(C=C1)C(C(=O)O)N(CC(C)N1CCOCC1)C(=O)OC(C)(C)C | C34H46N4O8
